US04433152
A mixture of 1.5 g of 1-amidino-4-piperidinepropionic acid hydrochloride and 7.7 g of bis-(p-chlorophenyl)sulfite was stirred at room temperature for 30 minutes in a solution of 12 ml of dry dimethylformamide and 6 ml of dry pyridine. The solvent was removed under reduced pressure, and ether was added to the residue to give crystals. The crystals were washed with ether twice and then with ethyl acetate and recrystallized from methanol-ether to obtain 1.75 g (yield: 79.5%) of p-chlorophenyl 1-amidino-4-piperidinepropionate hydrochloride as colorless crystals having a melting point of 173° to 176° C.

reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 1.5 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
reactant | bis-(p-chlorophenyl)sulfite | 7.7 g | ClC1=CC=C(C=C1)OS(=O)OC1=CC=C(C=C1)Cl | C12H8Cl2O3S
reactant | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | p-chlorophenyl 1-amidino-4-piperidinepropionate hydrochloride | 1.75 g, yield: 79.5% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=CC=C(C=C1)Cl | InChI=1S/C15H20ClN3O2.ClH/c16-12-2-4-13(5-3-12)21-14(20)6-1-11-7-9-19(10-8-11)15(17)18;/h2-5,11H,1,6-10H2,(H3,17,18);1H
